US07119207B2
7-Iodo-6-methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one
Silver trifluoroacetate (2.32 g, 10.48 mmol) was added to a dry methylene chloride (100 ml) solution of 6-Methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one (1.0 g, 5.24 mmol) followed by the dropwise addition of methylene chloride (100 ml) solution of iodine (1.33 g, 10.48 mmol) over 15 minutes. The reaction mixture was stirred overnight and the precipitated silver iodide salts were filtered off. The filtrate was concentrated down to a residue which was chromatographed using 50% ethylacetate/hexane to yield the title compound (795 mg, 48% yield). 1H NMR (400 MHz, CDCl3) δ 2.57–2.61 (2H, m), 2.81–2.85 (2H, m), 3.27 (3H, s), 3.82 (3H, s), 6.62 (1H, s), 7.31 (1H, s). m/z (APCI+) 318 (M+1). HPLC (aqueous 200 Mm ammonium acetate buffer/acetonitrile gradient, 3.0 ml/min, Hewlett Packard ODS Hypersil 5 μM, 125×4 mm column), 4.959 min.

reactant | 6-Methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one | 5.24 mmol, 1.0 g | COC=1C=C2CCC(N(C2=CC1)C)=O | C11H13NO2
reactant | iodine | 10.48 mmol, 1.33 g | II | I2
catalyst | Silver trifluoroacetate | 10.48 mmol, 2.32 g | FC(C(=O)[O-])(F)F.[Ag+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 7-Iodo-6-methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one | 795 mg, 48% yield | IC1=C(C=C2CCC(N(C2=C1)C)=O)OC | C11H12INO2
